US06979696B2
A mixture of N,N-dimethyl formamide diisopropyl acetal (1.7 ml, 8.13 mmol) and 1-Bromo-2-fluoro-4-methyl-5-nitro-benzene (1.538 g, 6.57 mmoles) in dry dimethylformamide (10 ml) was heated at 120-125° C. for 1.5 hours. The resulting dark red solution was concentrated under reduced pressure and partitioned between ethyl acetate and water. The organic extract was washed with brine, dried (anhydrous sodium sulfate), and concentrated under reduced pressure to give [2-(4-Bromo-5-fluoro-2-nitro-phenyl)-vinyl]-dimethyl-amine as a dark red solid.

reactant | N,N-dimethyl formamide diisopropyl acetal | 8.13 mmol, 1.7 ml | C(C)(C)OC(N(C)C)OC(C)C | C9H21NO2
reactant | 1-Bromo-2-fluoro-4-methyl-5-nitro-benzene | 6.57 mmoles, 1.538 g | BrC1=C(C=C(C(=C1)[N+](=O)[O-])C)F | C7H5BrFNO2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | [2-(4-Bromo-5-fluoro-2-nitro-phenyl)-vinyl]-dimethyl-amine | BrC1=CC(=C(C=C1F)C=CN(C)C)[N+](=O)[O-] | C10H10BrFN2O2
